US05696299
In a 300 ml separable flask were put 1 g of Lipase QL and 40 g of (R,S)-2-decanol, and the mixture was subjected to ultrasonication with the same ultrasonic wave generating equipment as used in Example 1 at room temperature and 90 kHz for 1 minute. To the dispersion was added 60 g of isopropyl stearate, followed by stirring at 95° C. and 250 rpm for 20 hours to carry out interesterification while evaporating by-produced isopropyl alcohol under reduced pressure. The water content of the reaction system was 0.02% by weight, and 96% of the lipase particles had a particle size of 10 to 40 μm. Gas chromatographic analysis of the reaction mixture revealed that 58 mol % of (R,S)-2-decanol had been converted to 2-decyl stearate. Lipase was removed by filtration in the same manner as in Example 1, and the filtrate was subjected to simple distillation at 70° C. under reduced pressure of 5 mmHg to give (S)-(+)-2-decanol (yield: 73.5%; chemical purity: 99.9%; optical purity: 98.5% ee). The residue, i.e., a mixture of (R)-(-)-2-decanol stearic acid ester and unreacted isopropyl stearate was acid-hydrolyzed in the same manner as in Example 2, and 1000 ml of acetone was added to the reaction mixture, followed by cooling to 5° C. The precipitated stearic acid was removed by filtration, and methanol was evaporated from the filtrate under reduced pressure to give (R)-(-)-2-decanol (yield: 72%; chemical purity: 99.6%; optical purity: 84% ee).

reactant | isopropyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC(C)C | C21H42O2
reactant | acetone | 1000 ml | CC(=O)C | C3H6O
product | (R)-(-)-2-decanol | yield: 72% | C[C@H](CCCCCCCC)O | C10H22O
